US07094801B2
4-[3E-(4-Pyrrolidin-1-yl-3-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
4-Pyrrolidin-1-yl-3-(thiophen-2-yl)-benzaldehyde (400 mg, 1.55 mmol) from Ex-20B and 4-acetylbenzoic acid (255 mg, 1.55 mmol) were dissolved in dimethylformamide (30 mL). Sodium hydroxide solution (5 N, 1.25 mL) was added in one portion, and the mixture was stirred at room temperature overnight. The reaction was diluted with water (100 mL) and washed with ethyl acetate (100 mL). The aqueous phase was acidified with conc. HCl and extracted with ethyl acetate (2×100 mL). The organic phase was dried over magnesium sulfate and concentrated under reduced pressure. Silica gel chromatography (100% ethyl acetate) followed by recrystallization from ethanol provided 80 mg (13%) of the title compound as a solid, m.p. 212–214° C. with decomposition. 1H-NMR (300 MHz, CDCl3) δ 8.21 (d, 2H, J=8.4 Hz), 7.06 (d, 2H, J=8.4 Hz), 7.80 (d, 1H, J=15.3 Hz), 7.58 (d, 1H, J=1.9 Hz), 7.52 (dd, 1H, J=8.5 and 1.9 Hz), 7.33 (m, 1H), 7.32 (d, 1H, 15.3 Hz), 7.01–7.06 (m, 2H), 6.82 (d, 1H, 7.9 Hz), 3.12 (m, 4H), 1.84 (m, 4H). MS m/z=403 ([M]+, 100%). HRMS (EI) Calcd. for C24H21NO3S: 403.1242. Found: 403.1251.

reactant | 4-Pyrrolidin-1-yl-3-(thiophen-2-yl)-benzaldehyde | 1.55 mmol, 400 mg | N1(CCCC1)C1=C(C=C(C=O)C=C1)C=1SC=CC1 | C15H15NOS
reactant | 4-acetylbenzoic acid | 1.55 mmol, 255 mg | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | Sodium hydroxide | 5 N, 1.25 mL | [OH-].[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-[3E-(4-Pyrrolidin-1-yl-3-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 80 mg, 13% | N1(CCCC1)C1=C(C=C(C=C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)C=1SC=CC1 | C24H21NO3S
